US04477680
A mixture containing 36.2 g (0.2 mole) of 4'-hydroxy-3'-nitroacetophenone, 15.7 g of acetyl chloride, 22 mL of 50% KOH solution, 200 mL of H2O and 300 mL of 95% ethanol is stirred and heated to reflux for 18 hours. The mixture is evaporated to remove ethanol, and the aqueous mixture is extracted with CHCl3 to solubilize the product. The CHCl3 extract is evaporated to dryness to afford 4'-acetoxy-3'-nitroacetophenone, which is brominated with an equimolar quantity of Br2 in CHCl3 (100 mL) to afford 2-bromo-4'-acetoxy-3-nitroacetophenone. This phenacyl bromide is then reacted in 100 mL of ethanol with 2 equivalents of isopropylamine to afford 4'-acetoxy-3'-nitro-2-isopropylaminoacetophenone, which isolated as the hydrochloride by the procedure reported by Larson et al. in Journal of Medicinal Chemistry, 10, 467 (1967) for a related compound. This ketoamine is then hydrogenated in 90% aqueous ethanol with 0.5 g of 10% Pd-C/3.5 kg/cm2H2 pressure in a Parr hydrogenator until the uptake of H2 is completed. The mixture is filtered, and the filtrate is evaporated to dryness to afford the crude title compound.

reactant | 4'-hydroxy-3'-nitroacetophenone | 0.2 mole, 36.2 g | OC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C8H7NO4
reactant | acetyl chloride | 15.7 g | C(C)(=O)Cl | C2H3ClO
reactant | KOH | 22 mL | [OH-].[K+]
reactant | H2O | 200 mL | O | H2O
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 4'-acetoxy-3'-nitroacetophenone | C(C)(=O)OC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C10H9NO5
